US04554012
To the mixture of 1.38 g of 2-methoxy-6-methylaminopyridine and 1.38 g of anhydrous potassium carbonate in 20 ml of acetone was added dropwise the solution of 2.25 g of 4-trifluoromethylphenyl chloroformate in 20 ml of acetone under stirring at room temperature. The mixture was stirred for 30 minutes and then was refluxed for 2 hours. After the reaction mixture was cooled to room temperature, it was poured into water and the product was extracted with benzene. The benzene solution, successively washed with water and brine, was dried over anhydrous magnesium sulfate. The residue obtained by the removal of benzene under reduced pressure was chromatographed through silica gel column using benzene as an eluent to give 2.02 g of pure 4-trifluoromethylphenyl N-(6-methoxy-2-pyridyl)-N-methylcarbamate as solid in the yield of 62%. A part of the solid was recrystallized from hexane and crystalls having melting point of 85° to 86° C. were obtained.

reactant | 2-methoxy-6-methylaminopyridine | 1.38 g | COC1=NC(=CC=C1)NC | C7H10N2O
reactant | potassium carbonate | 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-trifluoromethylphenyl chloroformate | 2.25 g | ClC(=O)OC1=CC=C(C=C1)C(F)(F)F | C8H4ClF3O2
reactant | water | O | H2O
solvent | acetone | 20 ml | CC(=O)C | C3H6O
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 4-trifluoromethylphenyl N-(6-methoxy-2-pyridyl)-N-methylcarbamate | 2.02 g, yield of 62% | COC1=CC=CC(=N1)N(C(OC1=CC=C(C=C1)C(F)(F)F)=O)C | C15H13F3N2O3
